US06727264B1
N-(3-{1-[2-(7-METHOXY-1H-INDOL-3-YL)ETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure H and Scheme S using N-(3-{1-[3-(1,3-dioxolan-2-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 1-(2-methoxyphenyl)hydrazine hydrochloride: ESMS m/e: 420.2 (M+H)+.

reactant | N-(3-{1-[3-(1,3-dioxolan-2-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O1C(OCC1)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H32N2O3
reactant | 1-(2-methoxyphenyl)hydrazine hydrochloride | Cl.COC1=C(C=CC=C1)NN
product | N-(3-{1-[2-(7-METHOXY-1H-INDOL-3-YL)ETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC=1C=CC=C2C(=CNC12)CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H33N3O2
